US04167638
B. 8-(6-Diethylaminohexylamino)-5-fluoro-6-methoxy-4-methylquinoline Dihydrochloride.
A solution of 28.1 g (0.0779 mole) of 8-(6-diethylaminohexylamino)-5-fluoro-6-methoxy-4-methylquinoline in ether (1.0 l) was dried over anhydrous magnesium sulfate then saturated with anhydrous hydrogen chloride. The gummy solid which separated was collected then recrystallized from ethanol-ether (2:5) (1.4 l); yield 27.3 g (80.8% recovery); mp 263°-269°.

reactant | 8-(6-diethylaminohexylamino)-5-fluoro-6-methoxy-4-methylquinoline | 0.0779 mole, 28.1 g | C(C)N(CCCCCCNC=1C=C(C(=C2C(=CC=NC12)C)F)OC)CC | C21H32FN3O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 1.0 l | CCOCC | C4H10O
product | 8-(6-Diethylaminohexylamino)-5-fluoro-6-methoxy-4-methylquinoline Dihydrochloride | Cl.Cl.C(C)N(CCCCCCNC=1C=C(C(=C2C(=CC=NC12)C)F)OC)CC | InChI=1S/C21H32FN3O.2ClH/c1-5-25(6-2)14-10-8-7-9-12-23-17-15-18(26-4)20(22)19-16(3)11-13-24-21(17)19;;/h11,13,15,23H,5-10,12,14H2,1-4H3;2*1H
